US05149717
a) (2S,3R)-2,3-epoxy-3-(3-trifluoromethylphenyl)-propanal
A solution of 1.1 g of oxalyl chloride in 15 ml of methylene chloride is cooled to -65°-70° under argon and within a period of 2 minutes 1.5 g of dimethyl sulfoxide in 5 ml of methylene dichloride are added. After stirring for 10 minutes at -65°-70°, 1.7 g of (2R,3R)-2,3-epoxy-3-(3-trifluoromethylphenyl)-propanol in 15 ml of methylene chloride are added dropwise. After stirring for a further 30 minutes, 4 g of triethylamine are added dropwise, the temperature rising to -40°. The temperature is allowed to rise to 0° and the reaction mixture is poured onto phosphate buffer (pH 8). The organic phase is separated off and the aqueous phase is extracted with methylene chloride. The combined organic extracts are washed twice with brine, dried over sodium sulfate and concentrated by evaporation. Chromatography of the residue on silica gel with hexane/ethyl acetate (7:3) yields the title compound in the form of a colourless oil; IR (methylene chloride): 2820, 1730, 1330, 1165, 1125, 1070 cm-1. Rf =0.36 (hexane/ethyl acetate 3:2). [α]D20 (chloroform, 0.20%)=-17.5°±5°.

reactant | oxalyl chloride | 1.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 1.5 g | CS(=O)C | C2H6OS
reactant | (2R,3R)-2,3-epoxy-3-(3-trifluoromethylphenyl)-propanol | 1.7 g | O1[C@H](CO)[C@H]1C1=CC(=CC=C1)C(F)(F)F | C10H9F3O2
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (2S,3R)-2,3-epoxy-3-(3-trifluoromethylphenyl)-propanal | O1[C@H](C=O)[C@H]1C1=CC(=CC=C1)C(F)(F)F | C10H7F3O2
